US07638638B2
A solution of 1-(2-bromo-acetyl)-(S)-pyrrolidine-2-carbonitrile (44 mg, 0.2 mmol) in THF (1 mL) was added slowly to a cold solution (−15° C.) of 1-(2-amino-4-methyl-pentanoyl)-pyrrolidine-2-carboxylic acid amide (55 mg, 0.24 mmol) in THF (2 mL). The temperature of the reaction mixture was gradually increased to room temperature. After stirring at this temperature overnight, the residue was concentrated and purified by LCMS to yield 1{(S)-2-[2-(2-Cyano-pyrrolidin-1-yl)-2-oxo-ethylamino]-(S)-4-methyl-pentanoyl}-(S)-pyrrolidine-2-carboxylic acid amide (54 mg; 62%). This pure product (20 mg) was dissolved in THF (1 mL), HCl ether (0.1 mL; 2M) was added and the mixture was concentrated to give the HCl salt form of 1-{(S)-2-[2-(2-cyano-pyrrolidin-1-yl)-2-oxo-ethylamino]-(S)-4-methyl-pentanoyl}-(S)-pyrrolidine-2-carboxylic acid amide. 1H-NMR data (CDCl3—CD3OD, 20:1): δ, 8.25 and 6.25 (s, 1H each), 4.73 (m, 1H), 4.43 (t, 1H, J=5.4 Hz), 4.2 (d, 1H, J=14.1 Hz), 4.0-3.47 (m, 7H), 2.4-1.9 (m, 10H), 1.41 (m, 1H). MS: calculated for C18H29N5O3+H 364.2; found: 364.2.

reactant | 1-(2-bromo-acetyl)-(S)-pyrrolidine-2-carbonitrile | 0.2 mmol, 44 mg | BrCC(=O)N1[C@@H](CCC1)C#N | C7H9BrN2O
reactant | 1-(2-amino-4-methyl-pentanoyl)-pyrrolidine-2-carboxylic acid amide | 0.24 mmol, 55 mg | NC(C(=O)N1C(CCC1)C(=O)N)CC(C)C | C11H21N3O2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1{(S)-2-[2-(2-Cyano-pyrrolidin-1-yl)-2-oxo-ethylamino]-(S)-4-methyl-pentanoyl}-(S)-pyrrolidine-2-carboxylic acid amide | 54 mg, 62% | C(#N)[C@H]1N(CCC1)C(CN[C@H](C(=O)N1[C@@H](CCC1)C(=O)N)CC(C)C)=O | C18H29N5O3
